US05290934
To ethyl 1-cyclopropyl-6,7-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (1.9 g) are added 90 % acetic acid (20 ml) and conc. hydrochloric acid (5 ml) and the mixture is refluxed for 2 hours. After cooling, the precipitated crystals are isolated, washed with water, ethanol, and diethyl ether in this order to give 1-cyclopropyl-6,7-difluoro-5-methyl-1,4,-dihydro-4-oxoquinoline-3-carboxylic acid (1.6 g), as colorless needles, m.p. 294°-298° C.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.9 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)OCC | C16H15F2NO3
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-6,7-difluoro-5-methyl-1,4,-dihydro-4-oxoquinoline-3-carboxylic acid | 1.6 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)O | C14H11F2NO3
